US08609644B2
To a solution of 3β-acetoxyandrostane-7,17-dione in MeOH (156 mL), 5N NaOH (54 mL) was added. After stirring at room temperature for 10 min, the solution was evaporated and the residue extracted with CH2Cl2 (2×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated to dryness to give 3β-hydroxyandrostane-7,17-dione (1.70 g, 95%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 4.56 (d, 1H), 3.35 (m, 1H), 2.66-0.87 (m, 20H), 1.02 (s, 3H), 0.76 (s, 3H).

reactant | 3β-acetoxyandrostane-7,17-dione | C(C)(=O)O[C@@H]1CC2CC([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C21H30O4
solvent | MeOH | 156 mL | CO | CH4O
solvent | NaOH | 5N, 54 mL | [OH-].[Na+]
product | 3β-hydroxyandrostane-7,17-dione | 1.70 g, 95% | O[C@@H]1CC2CC([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C19H28O3
